US08445509B2
Production of benzyl (4-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}phenyl)carbamate
To a solution of benzyl {4-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}carbamate (23.8 g, 48.6 mmol) in N,N-dimethylformamide (238 mL) were added N,N-diisopropylethylamine (11.0 mL, 63.2 mmol) and iodoacetamide (11.7 g, 63.2 mmol), and the mixture was stirred at room temperature for 24 hr. Water was added to the reaction mixture, and the mixture was extracted twice with ethyl acetate/tetrahydrofuran. The combined organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtered. The solvent was evaporated under reduced pressure, and the residue was washed with hexane/ethyl acetate and collected by filtration to give the title compound (20.6 g, 78%).

reactant | benzyl {4-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}carbamate | 48.6 mmol, 23.8 g | CC1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=N1)OC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C26H23N3O5S
reactant | N,N-diisopropylethylamine | 63.2 mmol, 11.0 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | iodoacetamide | 63.2 mmol, 11.7 g | ICC(=O)N | C2H4INO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 238 mL | CN(C=O)C | C3H7NO
product | benzyl (4-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}phenyl)carbamate | 20.6 g, 78% | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O)=O | C28H26N4O6S
